US07060827B2
A mixture of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine (280 mg, 1 mmol), 3-aminopyridine (113 mg, 1.2 mmol), sodium t-butoxide (134 mg, 1.4 mmol), binap (38 mg, 0.06 mmol), and palladium(II)acetate (14 mg, 0.06 mmol) in 9 mL of toluene was purged with N2 (3 cycles of alternating N2 and vacuum). The mixture was heated to 80° C. (oil-bath temperature). After 24 h, the mixture was cooled to room temperature and EtOAc (30 mL) and of water (10 mL) was added. After stirring 15 min, the precipitate was collected by filtration. A 1H NMR spectrum and ESI mass spectrum of the solid (150 mg) indicated the product (TLC analysis of the organic layer of the filtrate detected only starting materials). The crude product was slurried in 2 N HCl and the mixture was filtered. The filtrate was neutralized with 10% aqueous NaOH and concentrated. The material was slurried with MeOH and the solids removed by filtration. The concentrated material was slurried in CH3CN and TFA was added to afford a solution. N,N-diisopropylethylamine was added to the solution and the solid was collected by filtration, washing with CH3CN followed by Et2O to afford N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-pyridyl)-2,4-pyrimidinediamine (55 mg, 14%): Rf0.42 (silica gel, 4:1:0.1:0.1 dichloromethane/ethyl acetate/methanol/concentrated ammonium hydroxide); mp 251–253° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.38 (s, 1H), 9.26 (s, 1H), 8.74 (s, 1H), 8.20–8.17 (m, 1H), 8.09–8.08 (m, 2H), 7.29–7.28 (m, 1H), 7.23–7.17 (m, 2H), 6.83–6.80 (m, 1H), 4.24 (m, 4H); 13C NMR (75 MHz, DMSO-d6) δ 155.2, 149.8, 142.9, 141.6, 140.5, 140.0, 139.8, 139.7, 137.5, 132.1, 124.8, 123.0, 116.4, 115.1, 110.9, 64.1, 64.0; IR (ATR) 3264, 3195 cm−1; APCI MS m/z 340 [C17H14FN5O2+H]+. Anal. Calcd for C17H14FN5O2.0.5H2O: C, 58.70; H, 4.20; N, 20.13. Found: C, 58.71; H, 4.20; N, 19.51.

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | 1 mmol, 280 mg | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3-aminopyridine | 1.2 mmol, 113 mg | NC=1C=NC=CC1 | C5H6N2
reactant | sodium t-butoxide | 1.4 mmol, 134 mg | CC(C)([O-])C.[Na+]
reactant | binap | 0.06 mmol, 38 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.06 mmol, 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-pyridyl)-2,4-pyrimidinediamine | 55 mg, 14% | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=NC=CC1 | C17H14FN5O2
